US05097023
1-Azido-1-deoxy-4-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol (4.5 g, 7.98 mmol) is dissolved in a 1:1 mixture of ethanol and ethyl acetate (30 mL) and Palladium black (0.234 g) is added. The mixture is stirred under hydrogen at atmospheric pressure overnight. The catalyst is filtered off and the solvents evaporated under reduced pressure. Flash chromatography on silica gel and elution with a 95:5 mixture of ethyl acetate and methanol yield 2,3,5-tri-O-benzyl-1,4-dideoxy-1,4-imino-D-arabinitol (2.76 g, 86%) as an oil.

reactant | 1-Azido-1-deoxy-4-O-methanesulfonyl-2,3,5-tri-O-benzyl-L-xylitol | 7.98 mmol, 4.5 g | N(=[N+]=[N-])C[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C27H31N3O6S
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium black | 0.234 g | [Pd] | Pd
product | 2,3,5-tri-O-benzyl-1,4-dideoxy-1,4-imino-D-arabinitol | 2.76 g, 86% | C(C1=CC=CC=C1)O[C@@H]1CN[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C26H29NO3
